### PR TITLE
[Merged by Bors] - feat(MeasureTheory): add `continuousWithinAt_Ici/Iic_primitive_Ioi/Iio` and `continuousOn_Ici/Iic_primitive_Ioi/Iio/Ici/Iic`

### PR DESCRIPTION
**Pull request by Deep0Thinking**
This PR proves:

- `continuousWithinAt_Ici/Iic_primitive_Ioi/Iio`
- `continuousOn_Ici/Iic_primitive_Ioi/Iio/Ici/Iic`
- `integral_Ioi_sub_Ioi`, `integral_Ioi_sub_Ioi'`, `integral_Iio_sub_Iio`, `integral_Iio_sub_Iio'`
- `Ioi_diff_Ioc`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Deep0Thinking** [comment]
t-measure-probability

**Comment by Deep0Thinking** [comment]
-WIP

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 1]
```diff
@@ -637,4 +637,176 @@ end ContinuousPrimitive
...
+      apply tendsto_const_nhds.congr'
+      filter_upwards [mem_nhdsWithin_of_mem_nhds (Iio_mem_nhds hx)] with b (hb : b < x)
+      simp [hb]
+    · simp only [mem_Ioi, hx, if_false]
+      simp at hx
+      apply tendsto_const_nhds.congr'
+      filter_upwards [self_mem_nhdsWithin] with b hb
+      simp [hx.trans hb]
+
+theorem IntegrableOn.continuousWithinAt_primitive_Ioi {a b₀ : ℝ} (hf : IntegrableOn f (Ioi a) μ)
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: You should combine this theorem with `IntegrableOn.tendsto_primitive_Ioi` as the conclusion of these two theorems are definitionally equal.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 2]
```diff
@@ -623,6 +624,32 @@ theorem intervalIntegral_tendsto_integral_Ioi (a : ℝ) (hfi : IntegrableOn f (I
...
+    Tendsto (fun i ↦ ∫ x in Ici (b i), f x ∂μ) l (𝓝 (∫ x in Ici a, f x ∂μ)) := by
+  simp_rw [integral_Ici_eq_integral_Ioi]
+  exact ((hf.mono_set Ioi_subset_Ici_self).tendsto_primitive_Ioi le_rfl).comp hb
+
+theorem IntegrableOn.tendsto_integral_Iic {ι E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
+    {μ : Measure ℝ} [NoAtoms μ] {a : ℝ} {f : ℝ → E} (hf : IntegrableOn f (Iic a) μ)
+    {b : ι → ℝ} {l : Filter ι} (hb : Tendsto b l (𝓝[≤] a)) :
+    Tendsto (fun i ↦ ∫ x in Iic (b i), f x ∂μ) l (𝓝 (∫ x in Iic a, f x ∂μ)) := by
+  simp_rw [integral_Iic_eq_integral_Iio]
+  exact ((hf.mono_set Iio_subset_Iic_self).tendsto_primitive_Iio le_rfl).comp hb
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean]: I think theorems you add into this file can be deleted.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 3]
```diff
@@ -637,4 +637,176 @@ end ContinuousPrimitive
...
+    (hb₀ : a ≤ b₀) :
+    ContinuousWithinAt (fun b ↦ ∫ x in Ioi b, f x ∂μ) (Ici b₀) b₀ :=
+  hf.tendsto_primitive_Ioi hb₀
+
+theorem IntegrableOn.continuousOn_primitive_Ioi [NoAtoms μ] {a : ℝ}
+    (hf : IntegrableOn f (Ioi a) μ) :
+    ContinuousOn (fun b ↦ ∫ x in Ioi b, f x ∂μ) (Ici a) := by
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: I was wrong when I was talking with you this evening. This theorem indeed needs the [NoAtoms] condition because this is a theorem about continuity instead of right continuity. I think you should take the following approach to prove this theorem.

1. Prove right continuity at a point `ContinuousWithinAt (fun b ↦ ∫ x in Ioi b, f x ∂μ) (Ici b₀) b₀`. You have already proved this above.
2. Under the [NoAtoms] assumption, prove left continuity at a point `ContinuousWithinAt (fun b ↦ ∫ x in Ioi b, f x ∂μ) (Iic b₀) b₀`.
3. Use `continuousWithinAt_iff_continuous_left_right` to get continuity at a point.

And you can do sth similar for the `Iio` version. Note that you have already prove left continuity for `Iio`, so you should prove right continuity for `Iio` under the  [NoAtoms] assumption.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 4]
```diff
@@ -637,4 +637,176 @@ end ContinuousPrimitive
...
+    by_cases hx : b₀ < x
+    · simp only [mem_Ioi, hx, if_true]
+      apply tendsto_const_nhds.congr'
+      filter_upwards [mem_nhdsWithin_of_mem_nhds (Iio_mem_nhds hx)] with b (hb : b < x)
+      simp [hb]
+    · simp only [mem_Ioi, hx, if_false]
+      simp at hx
+      apply tendsto_const_nhds.congr'
+      filter_upwards [self_mem_nhdsWithin] with b hb
+      simp [hx.trans hb]
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: golf
```suggestion
  simp_rw [← integral_indicator measurableSet_Ioi]
  refine tendsto_integral_filter_of_dominated_convergence ((Ioi a).indicator (norm ∘ f)) ?_ ?_ ?_ ?_
  · filter_upwards [self_mem_nhdsWithin] with b hb
    rw [aestronglyMeasurable_indicator_iff measurableSet_Ioi]
    exact (hf.mono_set (Ioi_subset_Ioi (hb₀.trans hb))).aestronglyMeasurable
  · filter_upwards [self_mem_nhdsWithin] with b hb
    refine ae_of_all _ fun x => ?_
    rw [norm_indicator_eq_indicator_norm]
    apply indicator_le_indicator_of_subset (Ioi_subset_Ioi (by grind)) (fun a => norm_nonneg (f a))
  · simpa [integrable_indicator_iff measurableSet_Ioi] using hf.norm
  · refine ae_of_all _ fun x => ?_
    simp only [indicator_apply, mem_Ioi]
    by_cases hx : b₀ < x <;> apply tendsto_const_nhds.congr'
    · filter_upwards [mem_nhdsWithin_of_mem_nhds (Iio_mem_nhds hx)] with b hb using by grind
    · filter_upwards [self_mem_nhdsWithin] with b hb using by grind
```

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 5]
```diff
@@ -637,4 +637,100 @@ end ContinuousPrimitive
...
 
+namespace MeasureTheory
+
+namespace IntegrableOn
+
+open intervalIntegral
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] {μ : Measure ℝ} {f : ℝ → E}
+
+theorem continuousWithinAt_primitive_Ioi {a b₀ : ℝ} (hf : IntegrableOn f (Ioi a) μ) (hb₀ : a ≤ b₀) :
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: Maybe change the name to `continuousWithinAt_Ici_primitive_Ioi`? Similarly for the theorem below.

**Comment by CoolRmal** [comment]
This looks pretty good to me now. We can wait for comments from an official reviewer :)

File: Mathlib/Order/Interval/Set/LinearOrder.lean [hunk 6]
```diff
@@ -559,6 +559,10 @@ theorem compl_Ioc : (Ioc a b)ᶜ = Iic a ∪ Ioi b := by
 theorem Iic_diff_Ioc : Iic b \ Ioc a b = Iic (a ⊓ b) := by
   grind
 
+@[simp]
+theorem Ioi_diff_Ioc : Ioi a \ Ioc a b = Ioi (max a b) := by
+  simp [diff_eq, compl_Ioc, inter_union_distrib_left, Ioi_inter_Iic, Ioi_inter_Ioi]
```
Comment (EtienneC30) [inline Mathlib/Order/Interval/Set/LinearOrder.lean]:
```suggestion
  grind
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Basic.lean [hunk 7]
```diff
@@ -1106,6 +1106,30 @@ theorem integral_interval_add_Ioi' (ha : IntervalIntegrable f μ a b)
...
+    ∫ x in Ioi a, f x ∂μ - ∫ x in Ioi b, f x ∂μ = ∫ x in a..b, f x ∂μ :=
+  sub_eq_of_eq_add (integral_interval_add_Ioi hf (hf.mono_set (Ioi_subset_Ioi hab))).symm
+
+theorem integral_Ioi_sub_Ioi' (hf : IntegrableOn f (Ioi a) μ) (hg : IntegrableOn f (Ioi b) μ) :
+    ∫ x in Ioi a, f x ∂μ - ∫ x in Ioi b, f x ∂μ = ∫ x in a..b, f x ∂μ := by
+  wlog! hab : a ≤ b generalizing a b
+  · rw [integral_symm, ← this hg hf hab.le, neg_sub]
+  exact integral_Ioi_sub_Ioi hf hab
+
+theorem integral_Iio_sub_Iio [NoAtoms μ] (hf : IntegrableOn f (Iio b) μ) (hab : a ≤ b) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/Basic.lean]: I don't think you should use `NoAtoms` here, but rather use the integral in `Ico` and rewrite in the proof where you use it.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 8]
```diff
@@ -637,4 +637,100 @@ end ContinuousPrimitive
...
+namespace MeasureTheory
+
+namespace IntegrableOn
+
+open intervalIntegral
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] {μ : Measure ℝ} {f : ℝ → E}
+
+theorem continuousWithinAt_Ici_primitive_Ioi {a b₀ : ℝ} (hf : IntegrableOn f (Ioi a) μ)
+    (hb₀ : a ≤ b₀) : ContinuousWithinAt (fun b ↦ ∫ x in Ioi b, f x ∂μ) (Ici b₀) b₀ := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: You don't need `a` here, you can just have integrability over `Ici b₀`. Similar for the other statements you added.

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

**Comment by Deep0Thinking** [comment]
-awaiting-author

**Comment by Deep0Thinking** [comment]
@EtienneC30 Thank you for the comments! I've committed the changes accordingly.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 9]
```diff
@@ -637,4 +637,100 @@ end ContinuousPrimitive
...
+namespace MeasureTheory
+
+namespace IntegrableOn
+
+open intervalIntegral
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] {μ : Measure ℝ} {f : ℝ → E}
+
+theorem continuousWithinAt_Ici_primitive_Ioi {a₀ : ℝ} (hf : IntegrableOn f (Ioi a₀) μ)
+    : ContinuousWithinAt (fun b ↦ ∫ x in Ioi b, f x ∂μ) (Ici a₀) a₀ := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]:
```suggestion
theorem continuousWithinAt_Ici_primitive_Ioi {a₀ : ℝ} (hf : IntegrableOn f (Ioi a₀) μ) :
    ContinuousWithinAt (fun b ↦ ∫ x in Ioi b, f x ∂μ) (Ici a₀) a₀ := by
```
Same for the other version.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 10]
```diff
@@ -637,4 +637,100 @@ end ContinuousPrimitive
...
+  · refine ae_of_all _ fun x ↦ ?_
+    simp only [indicator_apply, mem_Ioi]
+    by_cases hx : a₀ < x <;> apply tendsto_const_nhds.congr'
+    · filter_upwards [mem_nhdsWithin_of_mem_nhds (Iio_mem_nhds hx)] with a ha using by grind
+    · filter_upwards [self_mem_nhdsWithin] with a ha using by grind
+
+theorem continuousOn_Ici_primitive_Ioi [NoAtoms μ] {a₀ : ℝ} (hf : IntegrableOn f (Ioi a₀) μ) :
+    ContinuousOn (fun b ↦ ∫ x in Ioi b, f x ∂μ) (Ici a₀) := by
+  intro a ha
+  rw [mem_Ici] at ha
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: This is defeq so you can do that:
```suggestion
  intro a (ha : a₀ ≤ a)
```
Same for the other version.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 11]
```diff
@@ -637,4 +637,100 @@ end ContinuousPrimitive
...
+  rw [continuousWithinAt_iff_continuous_left_right]
+  constructor
+  · rw [Ici_inter_Iic]
+    have h_int : IntervalIntegrable f μ a₀ a := by
+      rw [intervalIntegrable_iff_integrableOn_Ioc_of_le ha]
+      exact hf.mono_set Ioc_subset_Ioi_self
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: You can make this a one-liner if you want:
```suggestion
    have h_int : IntervalIntegrable f μ a₀ a :=
      (intervalIntegrable_iff_integrableOn_Ioc_of_le ha).2 <| hf.mono_set Ioc_subset_Ioi_self
```
Same for the other version.

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
